US04371720
2-(3-Hydroxyphenyl)-2-methylpropanal
A mixture of 38.9 g. (0.153 mole) of 2-(3-benzyloxyphenyl)-2-methylpropanal, 20 g. 5% Pd/C/50% water, 1.0 sodium bicarbonate and 150 ml. ethanol was shaken overnight under 55 psi of hydrogen. The reaction was filtered through diatomaceous earth, the filter cake washed with ethanol and the combined filtrate evaporated. The residue was reduced as above for another 8 hours. Another 10 g. portion of catalyst was added and the reaction continued overnight. The reaction was worked-up as above and the residue purified via column chromatography on 500 g. of silica gel eluted with 25% ether-hexane to yield 14 g. (56%) of the title compound as an oil.

reactant | 2-(3-benzyloxyphenyl)-2-methylpropanal | 0.153 mole | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(C=O)(C)C | C17H18O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 2-(3-Hydroxyphenyl)-2-methylpropanal | 56% | OC=1C=C(C=CC1)C(C=O)(C)C | C10H12O2
